US07601850B2
C. (5-{1-[4-(tert-Butyl-dimethyl-silanyloxy)-3-methyl-phenyl]-1-ethyl-propyl}-3-methyl-thiophen-2-ylmethylsulfanyl)-acetic acid ethyl ester
To a solution of 2.68 M sodium ethoxide (507 μl, 1.36 mmol) in EtOH (2 ml) is added ethyl 2-mercaptoacetate (149 μl, 1.36 mmol) and stirred at RT for 30 m. The mixture is added a solution of toluene-4-sulfonic acid 5-{1-[4-(tert-butyl-dimethyl-silanyloxy)-3-methyl-phenyl]-1-ethyl-propyl}-3-methyl-thiophen-2-ylmethyl ester (740 mg, 1.29 mmol) in EtOH (2 ml) is added and refluxed for 15 m. The reaction is concentrated and partitioned between EtOAc (100 ml) and 0.2N HCl (50 ml). The organic layer is washed with water (50 ml), dried (MgSO4), concentrated, and chromatographed (12 g SiO2, 5% EtOAc/Hex) to yield the title compound (180 mg, 27%). 1NMR (400 MHz, CDCl3) δ 7.00 (d, 1H, J=2.2 Hz), 6.92 (dd, 1H, J=8.4, 2.2 Hz), 6.64 (d, 1H, J=8.4 Hz), 6.46 (s, 1H), 4.17 (q, 2H, J=7.2 Hz), 3.92 (s, 2H), 3.14 (s, 2H), 2.16 (s, 3H), 2.12 (s, 3H), 2.07-1.98 (m, 4H), 1.28 (t, 3H, J=7.0 Hz), 1.00 (s, 9H), 0.68 (t, 6H, J=7.3 Hz), 0.20 (s, 6H).

reactant | sodium ethoxide | 1.36 mmol, 2.68 M, 507 μl | [O-]CC.[Na+]
reactant | ethyl 2-mercaptoacetate | 1.36 mmol, 149 μl | SCC(=O)OCC | C4H8O2S
reactant | toluene-4-sulfonic acid 5-{1-[4-(tert-butyl-dimethyl-silanyloxy)-3-methyl-phenyl]-1-ethyl-propyl}-3-methyl-thiophen-2-ylmethyl ester | 1.29 mmol, 740 mg | C(C)(C)(C)[Si](OC1=C(C=C(C=C1)C(CC)(CC)C1=CC(=C(S1)COS(=O)(=O)C1=CC=C(C=C1)C)C)C)(C)C | C31H44O4S2Si
solvent | EtOH | 2 ml | CCO | C2H6O
solvent | EtOH | 2 ml | CCO | C2H6O
product | (5-{1-[4-(tert-Butyl-dimethyl-silanyloxy)-3-methyl-phenyl]-1-ethyl-propyl}-3-methyl-thiophen-2-ylmethylsulfanyl)-acetic acid ethyl ester | 180 mg, 27% | C(C)OC(CSCC=1SC(=CC1C)C(CC)(CC)C1=CC(=C(C=C1)O[Si](C)(C)C(C)(C)C)C)=O | C28H44O3S2Si
